US05100893
A mixture of 4.6 parts of 4-hydroxybenzothioamide, 4.5 parts of 1-bromo-2-butanone and 79 parts of ethanol was stirred for 5 hours at reflux temperature. After cooling, the precipitate was filtered off and dried in vacuo at 50° C., yielding 5.6 parts (65.2%) of 4-(4-ethyl-2-thiazolyl)phenol hydrobromide (interm. 14).

reactant | 4-hydroxybenzothioamide | OC1=CC=C(C(N)=S)C=C1 | C7H7NOS
reactant | 1-bromo-2-butanone | BrCC(CC)=O | C4H7BrO
solvent | ethanol | C(C)O | C2H6O
product | 4-(4-ethyl-2-thiazolyl)phenol hydrobromide | 65.2% | Br.C(C)C=1N=C(SC1)C1=CC=C(C=C1)O | InChI=1S/C11H11NOS.BrH/c1-2-9-7-14-11(12-9)8-3-5-10(13)6-4-8;/h3-7,13H,2H2,1H3;1H
